### PR TITLE
reduce dependencies in measurable_structure.v

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

fyi @hoheinzollern

##### Checklist

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [x] added corresponding documentation in the headers

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Merge policy

As a rule of thumb:
- PRs with several commits that make sense individually and that
  all compile are preferentially merged into master.
- PRs with disorganized commits are very likely to be squash-rebased.

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

**Comment by affeldt-aist** [comment]
This is really just reducing dependencies in `measurable_structure.v`, so a clear improvement.

File: classical/classical_sets.v [hunk 1]
```diff
@@ -2310,78 +2323,24 @@ Proof. by apply: setC_inj; rewrite setC_bigcap setC_bigsetI bigcup_seq. Qed.
...
+Implicit Types (A : set T) (F : (set T)^nat).
 
 Lemma bigcup_mkord n F : \bigcup_(i < n) F i = \big[setU/set0]_(i < n) F i.
 Proof.
 rewrite -(big_mkord xpredT F) -bigcup_seq.
 by apply: eq_bigcupl; split=> i; rewrite /= mem_index_iota leq0n.
 Qed.
 
+Lemma bigcup_bigsetU_bigcup F :
+  \bigcup_k \big[setU/set0]_(i < k.+1) F i = \bigcup_k F k.
```
Comment (t6s) [inline classical/classical_sets.v:2338]: not about this PR itself, but why do lemmas around here have `.+1` in the indexing for finite parts?

**Review by t6s — APPROVED** [review]
looks good

**Comment by t6s** [comment]
One action in the CI is failing, complaining xfinmap is not found. What is xfinmap?

File: classical/classical_sets.v [hunk 2]
```diff
@@ -2181,7 +2190,11 @@ move=> Pj; apply/seteqP; split => [t [Fjt UFt] i Pi|t UFt].
 by split=> [|[k [Pk kj]] [Fjt]]; [|apply]; exact: UFt.
 Qed.
 
-Definition bigcup2 T (A B : set T) : nat -> set T :=
+Definition sequence R := nat -> R.
+
+Notation "R ^nat" := (sequence R) : type_scope.
```
Comment (hoheinzollern) [inline classical/classical_sets.v:2196]: why is this notation introduced here? isn't it part of mathcomp already?

**Review by hoheinzollern — APPROVED** [review]
Other than the comment about notation, looks good.

File: theories/sequences.v
Comment (affeldt-aist) [inline theories/sequences.v]: This also needs to be moved to `classical_sets.v`

File: classical/classical_sets.v (hunk 2 above)
Comment (affeldt-aist) [reply classical/classical_sets.v:2196]: No, it is not part of mathcomp.
I am not sure it is going to make it to mathcomp soon because it is about sequences and their theory is really developed in MathComp-Analysis.
This is the reason why I haven't even thought of moving it to `unstable.v` (the staging area).

File: classical/classical_sets.v (hunk 1 above)
Comment (affeldt-aist) [reply classical/classical_sets.v:2338]: `bigcup_bigsetU_bigcup` can indeed be changed but of course it like adding an empty set to the big union
so I am not sure it is interesting, what do you think at the look of the last commit?

If by "around" you mean the next lemma `bigcup_mkord_ord`, this is inherent to the use of `inord`.

Comment (affeldt-aist) [reply classical/classical_sets.v:2338]: In fact, I would like to revert the last commit (https://github.com/math-comp/analysis/pull/1979/changes/eba1042c49f3306742661a8b0c6e27b0f62206d3) that experiments with changing the statement of `bigcup_bigsetU_bigcup`, not really convincing to me.

Comment (affeldt-aist) [reply classical/classical_sets.v:2338]: I removed it then.

**Comment by affeldt-aist** [comment]
Thanks for the reviews @t6s @hoheinzollern . I'll merge when the CI is green.
